US06093731
A mixture of t-butyl cis-4-aminocyclohexanecarboxylate (282 mg, 1.20 mmol), NEt3 (0.33 mL, 2.37 mmol) and 1,4-dichloro-7-isoquinolinesulphonyl chloride (296 mg, 1.00 mmol) in CH2Cl2 (10 mL) was stirred at 0° C. for 1 h. The mixture was diluted with CH2Cl2 (150 mL), was washed with dilute HCl (30 mL, 1 M), water, dried (MgSO4) and evaporated in vacuo. The residue was purified by column chromatography upon silica gel using pentane-EtOAc (100:0 to 75:25) to give t-butyl cis-4-{[(1,4-dichloro-7-isoquinolinyl)sulphonyl]amino}cyclohexanecarboxylate (360 mg, 0.78 mmol) as a white solid.

reactant | t-butyl cis-4-aminocyclohexanecarboxylate | 1.20 mmol, 282 mg | N[C@H]1CC[C@H](CC1)C(=O)OC(C)(C)C | C11H21NO2
reactant | NEt3 | 2.37 mmol, 0.33 mL | CCN(CC)CC | C6H15N
reactant | 1,4-dichloro-7-isoquinolinesulphonyl chloride | 1.00 mmol, 296 mg | ClC1=NC=C(C2=CC=C(C=C12)S(=O)(=O)Cl)Cl | C9H4Cl3NO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | t-butyl cis-4-{[(1,4-dichloro-7-isoquinolinyl)sulphonyl]amino}cyclohexanecarboxylate | 0.78 mmol, 360 mg | ClC1=NC=C(C2=CC=C(C=C12)S(=O)(=O)N[C@H]1CC[C@H](CC1)C(=O)OC(C)(C)C)Cl | C20H24Cl2N2O4S
